US06710056B2
4-(t-Butoxycarbonylamino)-2-hydroxybenzoic acid:
A mixture of 3.7 g of 4-amino-2-hydroxybenzoic acid, 11.9 g of di-t-butyl dicarbonate, 4.4 g of sodium hydroxide, 50 ml of water and 50 ml of dioxane was stirred at room temperature overnight. The reaction mixture was treated with ethyl acetate as the extracting solvent in an ordinary manner to obtain the title compound.

reactant | 4-amino-2-hydroxybenzoic acid | 3.7 g | NC1=CC(=C(C(=O)O)C=C1)O | C7H7NO3
reactant | di-t-butyl dicarbonate | 11.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 4.4 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(t-Butoxycarbonylamino)-2-hydroxybenzoic acid | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)O)C=C1)O | C12H15NO5
